US05795894
Chloropyrazine (20.68 gram, 177 mmol) and [1,2-bis(diphenylphosphino)ethane]nickel(II) chloride (41.08 gram, 77.8 mmol) in dry THF (1.5 liter) were mixed and stirred for 80 minutes in a flask (cooled with a water bath) under nitrogen. A solution of phenylmagnesium bromide (3M in Et2O) (103 ml, 309 mmol) was added slowly through a dropping funnel into the cooled brick-red slurry at room temperature under nitrogen over 3.5 hours. After stirring at room temperature overnight, TLC showed that the reaction was complete. 3 N HCI (100 ml) was added slowly through a dropping funnel under nitrogen and the mixture was stirred for one hour. The THF layer was separated from the aqueous layer. The aqueous layer was adjusted to pH 12 with 6 N NaOH and extracted with EtOAc (100 ml, 3×). The organic fractions (THF and EtOAc) were combined and dried over MgSO4, filtered and concentrated to give a solid. The product was purified by flash chromatography on 300 g of flash grade silica gel in 2.5% EtOAc/CH2Cl2 to give 10.79 gram (69 mmol, 39%) of 2-phenylpyrazine, m.p. 69°-70° C.; FAB mass [M+1]+ 157;

reactant | Chloropyrazine | 177 mmol, 20.68 gram | ClC1=NC=CN=C1 | C4H3ClN2
reactant | phenylmagnesium bromide | 309 mmol, 3M, 103 ml | C1(=CC=CC=C1)[Mg]Br
solvent | THF | 1.5 liter | C1CCOC1 | C4H8O
catalyst | [1,2-bis(diphenylphosphino)ethane]nickel(II) chloride | 77.8 mmol, 41.08 gram | C1=CC=C(C=C1)P(CCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4.Cl[Ni]Cl
product | 2-phenylpyrazine | 69 mmol, 10.79 gram, 39% | C1(=CC=CC=C1)C1=NC=CN=C1 | C10H8N2
